US07071201B2
Example 37: Synthesis of 1-[1-(4-chloroacetamidomethylphenethyl)piperidin-4-yl]indoline
1-[1-(4-Aminomethylphenethyl)piperidin-4-yl]indoline (0.1 g) and chloroacetyl chloride (0.026 ml) were treated as in Example 36 to give the title compound (0.074 g) as a pale yellow oil (yield: 62.1%).

reactant | 1-[1-(4-Aminomethylphenethyl)piperidin-4-yl]indoline | 0.1 g | NCC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C22H29N3
reactant | chloroacetyl chloride | 0.026 ml | ClCC(=O)Cl | C2H2Cl2O
product | 1-[1-(4-chloroacetamidomethylphenethyl)piperidin-4-yl]indoline | 0.074 g, yield: 62.1% | ClCC(=O)NCC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=CC=C23)C=C1 | C24H30ClN3O
